US06087380
2-[(4-amidinophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 9 from 2-[(4-cyanophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 61% of theory, C27H26N4O3S2 (518.66) Rf value: 0.27 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =519

reactant | 2-[(4-cyanophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CSC2=CC=C(C=C2)C#N)C1)CCC(=O)OCC | C27H23N3O3S2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[(4-amidinophenyl)thiomethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 61% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CSC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC | InChI=1S/C27H26N4O3S2.ClH/c1-2-34-25(32)14-15-31(20-6-4-3-5-7-20)27(33)19-10-13-23-22(16-19)30-24(36-23)17-35-21-11-8-18(9-12-21)26(28)29;/h3-13,16H,2,14-15,17H2,1H3,(H3,28,29);1H
